US06911458B2
1-(4-Bromobenzyl)-4-piperidinylamine
To a solution of 4-bromo benzylbromide (1.0 g, 4.1 mmol) in dichloromethane (20 ml) and diisopropyletylamine (1 ml) was added tert-butyl 4-piperidinylcarbamate (1.0 g, 5.0 mmol). The solution was then stirred at room temperature over night. The solvent was evaporated and 25 ml of 50% TFA in dichloromethane was added to the resulting white solid. The mixture was then stirred at room temperature for 2 h and then evaporated to dryness. The resulting solid was dissolved in water and extracted with toluene. After removal of the toluene the water phase was made basic with 1M NaOH giving a pH of 13. The water phase was then extracted with dichloromethane 3 times and the combined extracts were dried and then evaporated to give the pure product as a slightly yellow oil (0.96 g, 3.6 mmol)

reactant | 4-bromo benzylbromide | 4.1 mmol, 1.0 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | tert-butyl 4-piperidinylcarbamate | 5.0 mmol, 1.0 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | diisopropyletylamine | 1 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | 1-(4-Bromobenzyl)-4-piperidinylamine | 3.6 mmol, 0.96 g | BrC1=CC=C(CN2CCC(CC2)N)C=C1 | C12H17BrN2
